US06951879B2
According to the method in example 7, 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole and Dimethylamine were converted to yield Dimethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine, MS: 395 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C18H15BrF3NOS
reactant | Dimethylamine | CNC | C2H7N
product | Dimethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-amine | CN(CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)C | C20H21F3N2OS
